US04031246
4{2-[2-(2-Chloro-4-methoxyphenoxy)ethoxy]ethyl}-3,5-heptane-dione [I; Ar is 2-Cl-4-CH3OC6H3, Alk is (CH2)2O(CH2)2, R and R' are CH3CH2CO] was prepared from 65.1 g. of the iodide from part (b) and the lithium salt derived from 41.0 g. of 3,5-heptanedione to give 12.1 g. of product, b.p. 168°-172° C. (0.005 mm.).

reactant | 4{2-[2-(2-Chloro-4-methoxyphenoxy)ethoxy]ethyl}-3,5-heptane-dione | ClC1=C(OCCOCCC(C(CC)=O)C(CC)=O)C=CC(=C1)OC | C18H25ClO5
reactant | iodide | [I-]
reactant | lithium | [Li] | Li
product | 3,5-heptanedione | CCC(CC(CC)=O)=O | C7H12O2
